US05736539
1,3(S)-Dibenzylpiperazine-2,5-dione
The title compound was prepared according to the procedure described in Example 2, Step A, except using Boc-L-phenylalanine (12.8 g, 48.2 mmol), ethyl N-benzylglycinate (9.32 g, 48.2 mmol) and dicyclohexylcarbodiimide (96.5 mL 0.5M in dichloromethane, 48.2 mmol). The crude diketopiperazine was triturated with hexane to give the title compound as a white powder (12.5 g). NMR (300 MHz, CD3OD) δ 7.0-7.4 (10H, m), 4.61 (1H, d, J=16 Hz), 4.37 (1H, t, J=5 Hz), 4.24 (1H, d, J=16 Hz), 3.42 (1H, d, J=18 Hz), 3.28 (1H, dd, J=4, 16 Hz), 2.96 (1H, dd, J=6, 16 Hz), 2.55 (1H, d, J=18 Hz).

reactant | Boc-L-phenylalanine | 48.2 mmol, 12.8 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | ethyl N-benzylglycinate | 48.2 mmol, 9.32 g | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
reactant | dicyclohexylcarbodiimide | 48.2 mmol, 0.5M, 96.5 mL | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 1,3(S)-Dibenzylpiperazine-2,5-dione | 12.5 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CC1=CC=CC=C1)=O | C18H18N2O2
